US05126125
To 0.81 g (0.004 mole) of N,O-bis(trimethylsilyl) acetamide is added, stirring at room temperature, 0.3 g (0.002 mole) of 5,6-dihydroxy indole. When dissolution is completed, 2 ml dichloromethane are added and the solution is passed through a column of silica 60, eluating with dichloromethane. The first fraction obtained is concentrated in a rotavapor, then vacuum-dried. Thus are obtained 0.42 g (yield: 71%) of white crytal of 5,6[di(trimethylsilyloxy]indole.

reactant | N,O-bis(trimethylsilyl) acetamide | 0.004 mole, 0.81 g | C/C(=N\[Si](C)(C)C)/O[Si](C)(C)C | C8H21NOSi2
reactant | 5,6-dihydroxy indole | 0.002 mole, 0.3 g | OC=1C=C2C=CNC2=CC1O | C8H7NO2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | di(trimethylsilyloxy]indole | yield: 71% | C[Si](OC1=C(NC2=CC=CC=C12)O[Si](C)(C)C)(C)C | C14H23NO2Si2
